US07572928B2
(4R)-4-benzyl-3-[(2S,3R)-2-benzyl-3-fluoropent-4-enoyl]-1,3-oxazolidin-2-one
To a solution of (4R)-4-benzyl-3-[(2R,3E)-2-benzyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one (0.88 mmol, 370 mg) in CH3CN (8 mL) was added [1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate)] (referred to hereafter as Selectfluor) (0.88 mmol, 310 mg). The reaction was allowed to stir at RT for 48 hr. The solvent was removed in vacuo. The crude product was purified by column chromatography to yield a mixture of diastereoisomers de=10% (250 mg, 95%). 1H NMR (400 MHz, CDCl3): δ=6.98-7.3 (m, 10H), 6.0 (m, 1H), 5.5 (dm, J=17, 1H), 5.42 (d, J=10.6, 1H), 5.1 (ddd, J=7.1, 8.1, 47.2, 1H), 4.85 (m, 1H), 4.64 (m, 1H), 3.98-4.12 (m, 2H), 2.84-3.0 (m, 3H), 2.2 (m, 1H); 13C NMR (100 MHz, CDCl3): δ=172.5, 152.9, 137.2, 135.1, 133.7, 133.6, 129.5, 129.3, 128.9, 128.5, 127.2, 126.8, 120.6, 120.5, 94.4 (d, J=175), 65.6, 55.1, 48.1 (d, J=21), 37.3 34.8 (d, J=6); 19F {1H} NMR (376.5 MHz, CDCl3): δ=−175.7; IR (CHCl3): v 3444, 2957, 1645, 1367, 1235, 1205 cm−1; [α]D20=−18.4° (c, 0.5 CHCl3); HMRS required for C22H23NO3F 368.1662 ([M+H+]) found 368.1669.

reactant | (4R)-4-benzyl-3-[(2R,3E)-2-benzyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one | 0.88 mmol, 370 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](\C=C\C[Si](C)(C)C)CC1=CC=CC=C1)=O | C25H31NO3Si
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | (4R)-4-benzyl-3-[(2S,3R)-2-benzyl-3-fluoropent-4-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@@H](C=C)F)CC1=CC=CC=C1)=O | C22H22FNO3
